### PR TITLE
[Merged by Bors] - feat: grind annotations for `Disjoint`

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
!bench

**Review by grunweg — COMMENTED** [review]
I like the golfs, but would like somebody else to review the grind tagging.

File: Mathlib/Order/Disjoint.lean [hunk 1]
```diff
@@ -330,11 +361,11 @@ variable [DistribLattice α] [OrderTop α] {a b c : α}
 
 @[simp]
 theorem codisjoint_inf_left : Codisjoint (a ⊓ b) c ↔ Codisjoint a c ∧ Codisjoint b c := by
-  simp only [codisjoint_iff, sup_inf_right, inf_eq_top_iff]
+  grind [sup_inf_right]
 
 @[simp]
 theorem codisjoint_inf_right : Codisjoint a (b ⊓ c) ↔ Codisjoint a b ∧ Codisjoint a c := by
-  simp only [codisjoint_iff, sup_inf_left, inf_eq_top_iff]
+  grind [sup_inf_left]
```
Comment (chrisflav) [inline Mathlib/Order/Disjoint.lean]: Should `sup_inf_right` and `sup_inf_left` be tagged with `grind _=_`? Probably one of them suffices, because `grind` knows commutativity of `⊓` and `⊔`, not sure if still both variants should be tagged or not.

File: Mathlib/Order/Lattice.lean [hunk 2]
```diff
@@ -360,14 +363,17 @@ theorem inf_le_inf_right (a : α) {b c : α} (h : b ≤ c) : b ⊓ a ≤ c ⊓ a
 theorem inf_le_inf_left (a : α) {b c : α} (h : b ≤ c) : a ⊓ b ≤ a ⊓ c :=
   inf_le_inf le_rfl h
 
+@[grind =]
 theorem inf_idem (a : α) : a ⊓ a = a := by simp
 
 instance : Std.IdempotentOp (α := α) (· ⊓ ·) := ⟨inf_idem⟩
 
+@[grind _=_]
 theorem inf_comm (a b : α) : a ⊓ b = b ⊓ a := @sup_comm αᵒᵈ _ _ _
```
Comment (chrisflav) [inline Mathlib/Order/Lattice.lean]:
```suggestion
@[grind =]
theorem inf_comm (a b : α) : a ⊓ b = b ⊓ a := @sup_comm αᵒᵈ _ _ _
```
To be consistent with `sup_comm`, where I assume the reasoning is that `grind` can already instantiate this lemma with `a` and `b` swapped to get the reverse direction.
(Do we know how `_=_` lemmas compare in terms of performance to `=` lemmas?)

File: Mathlib/Order/Disjoint.lean [hunk 3]
```diff
@@ -227,9 +243,23 @@ theorem codisjoint_top_right : Codisjoint a ⊤ := fun _ _ htop ↦ htop
...
+grind_pattern Codisjoint.mono_right => Codisjoint a b, Codisjoint a c
+
+theorem Codisjoint.out (h : Codisjoint a b) (x : α) : a ≤ x → b ≤ x → ⊤ ≤ x :=
+  fun h₁ h₂ => by simpa using h h₁ h₂
+
+grind_pattern Codisjoint.out => Codisjoint a b, a ≤ x
+grind_pattern Codisjoint.out => Codisjoint a b, b ≤ x
+
 @[simp]
 theorem codisjoint_self : Codisjoint a a ↔ a = ⊤ :=
```
Comment (chrisflav) [inline Mathlib/Order/Disjoint.lean]:
```suggestion
@[simp, grind =]
theorem codisjoint_self : Codisjoint a a ↔ a = ⊤ :=
```

File: Mathlib/Order/Disjoint.lean [hunk 4]
```diff
@@ -244,24 +274,27 @@ theorem Codisjoint.ne (ha : a ≠ ⊤) (hab : Codisjoint a b) : a ≠ b :=
...
+
 theorem Codisjoint.eq_top_of_ge (hab : Codisjoint a b) : a ≤ b → b = ⊤ :=
   hab.symm.eq_top_of_le
 
+grind_pattern Codisjoint.eq_top_of_ge => Codisjoint a b, a ≤ b
+
 lemma Codisjoint.eq_iff (hab : Codisjoint a b) : a = b ↔ a = ⊤ ∧ b = ⊤ := by aesop
-lemma Codisjoint.ne_iff (hab : Codisjoint a b) : a ≠ b ↔ a ≠ ⊤ ∨ b ≠ ⊤ :=
-  hab.eq_iff.not.trans not_and_or
+lemma Codisjoint.ne_iff (hab : Codisjoint a b) : a ≠ b ↔ a ≠ ⊤ ∨ b ≠ ⊤ := by grind [eq_iff]
```
Comment (chrisflav) [inline Mathlib/Order/Disjoint.lean]:
```suggestion
lemma Codisjoint.eq_iff (hab : Codisjoint a b) : a = b ↔ a = ⊤ ∧ b = ⊤ := by grind
lemma Codisjoint.ne_iff (hab : Codisjoint a b) : a ≠ b ↔ a ≠ ⊤ ∨ b ≠ ⊤ := by grind
```
If you add the `grind =` to `codisjoint_self` above.

File: Mathlib/Order/Disjoint.lean [hunk 5]
```diff
@@ -215,10 +231,10 @@ theorem Codisjoint.symm ⦃a b : α⦄ : Codisjoint a b → Codisjoint b a :=
 theorem symmetric_codisjoint : Symmetric (Codisjoint : α → α → Prop) :=
   Codisjoint.symm
 
-@[simp]
+@[simp, grind]
 theorem codisjoint_top_left : Codisjoint ⊤ a := fun _ htop _ ↦ htop
 
-@[simp]
+@[simp, grind]
 theorem codisjoint_top_right : Codisjoint a ⊤ := fun _ _ htop ↦ htop
```
Comment (chrisflav) [inline Mathlib/Order/Disjoint.lean]: This one is already provable `by grind`. Should it still be flagged with `grind`? For `simp`, we explicitly lint against this.
More general question, similar to the one below: Should we rely on commutativity lemmas to deduce theses types of lemmas from the mirrored version?

**Review by chrisflav — COMMENTED** [review]
I don't have much experience with `grind`, but we need to increase the number of capable `grind`-annotations reviewers, so I left some hopefully useful comments.

File: Mathlib/Order/BoundedOrder/Basic.lean [hunk 6]
```diff
@@ -123,9 +123,12 @@ alias ⟨IsTop.eq_top, _⟩ := isTop_iff_eq_top
 theorem top_le_iff : ⊤ ≤ a ↔ a = ⊤ :=
   le_top.ge_iff_eq
 
+@[grind ←=] -- This tells grind that to prove `a = ⊤` it suffices to prove `⊤ ≤ a`.
 theorem top_unique (h : ⊤ ≤ a) : a = ⊤ :=
   le_top.antisymm h
 
+grind_pattern top_unique => ⊤ ≤ a
```
Comment (chrisflav) [inline Mathlib/Order/BoundedOrder/Basic.lean]:
```suggestion
@[grind ←=, grind →] -- This tells grind that to prove `a = ⊤` it suffices to prove `⊤ ≤ a`.
theorem top_unique (h : ⊤ ≤ a) : a = ⊤ :=
le_top.antisymm h
```
Is this equivalent?

File: Mathlib/Order/Disjoint.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Order/Disjoint.lean]: I'm hesitant for now to add global attributes to too many lattice lemmas, as I'm hoping we can later build a sup/inf aware inequality solver that would handle them automatically. So for now let's use lemmas like this as arguments.

File: Mathlib/Order/Lattice.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Order/Lattice.lean]: Thanks, good catch.

A `_=_` lemma just generates two grind patterns. In practice duplicated lemmas are pretty cheap for grind, as the results are immediately identified (i.e. there's no combinatorial explosion), and instantiation of O(1) lemmas is very fast.

File: Mathlib/Order/BoundedOrder/Basic.lean (hunk 6 above)
Comment (kim-em) [reply Mathlib/Order/BoundedOrder/Basic.lean]: Yes, thanks, adopted.

File: Mathlib/Order/Disjoint.lean (hunk 5 above)
Comment (kim-em) [reply Mathlib/Order/Disjoint.lean]: Yes, we should generally rely on commutativity lemmas.

However merely being provable by grind isn't sufficient to be sure that something shouldn't be tagged with grind. I don't have a really good heuristic for this yet.

This one, however, seems best to remove.

A good trick here (only available from v4.25.0-rc1 onwards) is to write `reprove codisjoint_top_right by grind` in a test file, to make sure these invariants hold.

File: Mathlib/Order/Disjoint.lean [hunk 7]
```diff
@@ -330,11 +361,11 @@ variable [DistribLattice α] [OrderTop α] {a b c : α}
 
 @[simp]
 theorem codisjoint_inf_left : Codisjoint (a ⊓ b) c ↔ Codisjoint a c ∧ Codisjoint b c := by
-  simp only [codisjoint_iff, sup_inf_right, inf_eq_top_iff]
+  grind [sup_inf_right]
```
Comment (chrisflav) [inline Mathlib/Order/Disjoint.lean:363]: This proof went up from `150` heartbeats to `12541` heartbeats. The absolute numbers are low, so I don't know if we should be worried about this.
(the other slow declarations are `codisjoint_inf_right` and the corresponding `disjoint_` lemmas.)

**Review by chrisflav — COMMENTED** [review]
Should we be worried about the performance here? I flagged one proof that got noticeably slower, otherwise the file seems still fast. If the numbers are reliable (which I am not so sure they are, overall `+208.968⬝10⁹` does not seem great, given the scale of the changes. Do we / you have some tooling that can track the global effect of an added grind annotation? For example, how often was a specific lemma tried, how often was it successfully instantiated and how often was it used in the final proof (i.e., how often would it appear if every `grind` was squeezed?).

**Review by euprunin — APPROVED** [review]

**Comment by kim-em** [comment]
Yes, this is worth paying attention to. I've reverted the four slow proofs, and will re-benchmark to see if it has downstream effects.

**Comment by ghost** [comment]
!bench

**Comment by chrisflav** [comment]
I took the liberty to merge master to get a more reliable benchmark, I hope you don't mind. The main regression in `Mathlib.Combinatorics.SimpleGraph.Triangle.Counting` went up from ~800 heartbeats to ~8000 heartbeats. The numbers are quite small here so I would be happy to proceed with this, although the slowness is noticeable when you open the file.

File: MathlibTest/grind/pairwise_disjoint.lean [hunk 8]
```diff
@@ -16,5 +16,12 @@ attribute [grind ←] Finset.disjoint_empty_right
...
+-- Add this line:
+--attribute [-grind] Disjoint.out
+-- or add both of these:
+--attribute [-grind] disjoint_comm
+--attribute [-grind] Disjoint.mono_left
+-- to make plain `grind` with default e-match instance threshold succeed
+
 example : Pairwise (Function.onFun Disjoint fun x ↦ S1 x) := by
-  grind
+  grind (instances := 2000)
```
Comment (chrisflav) [inline MathlibTest/grind/pairwise_disjoint.lean]: This should only be a temporary fix to get the test working and to get a benchmark. We should remove `grind` from some of the mentioned lemmas above, to make the old test working again. My suggestion is to remove the ones from `Disjoint.out` (which suffices to fix the test). More details in the corresponding comment.

File: Mathlib/Order/Disjoint.lean [hunk 9]
```diff
@@ -66,10 +67,24 @@ theorem disjoint_bot_right : Disjoint a ⊥ := fun _ _ hbot ↦ hbot
...
+grind_pattern Disjoint.mono_left => a ≤ b, Disjoint a c
+grind_pattern Disjoint.mono_left => Disjoint b c, Disjoint a c
+
 theorem Disjoint.mono_right (h : b ≤ c) : Disjoint a c → Disjoint a b :=
   Disjoint.mono le_rfl h
 
-@[simp]
+grind_pattern Disjoint.mono_right => b ≤ c, Disjoint a c
+grind_pattern Disjoint.mono_right => b ≤ c, Disjoint a b
+grind_pattern Disjoint.mono_right => Disjoint a c, Disjoint a b
```
Comment (chrisflav) [inline Mathlib/Order/Disjoint.lean]: I think these are redundant, because `disjoint_comm` and the corresponding patterns for `Disjoint.mono_left` should be sufficient (similarly for `Codisjoint.mono_right`).
Removing these alone does not fix the test failure though.

File: Mathlib/Order/Disjoint.lean [hunk 10]
```diff
@@ -66,10 +67,24 @@ theorem disjoint_bot_right : Disjoint a ⊥ := fun _ _ hbot ↦ hbot
...
+
+theorem Disjoint.out (h : Disjoint a b) (x : α) : x ≤ a → x ≤ b → x = ⊥ :=
+  fun h₁ h₂ => by simpa using h h₁ h₂
+
+grind_pattern Disjoint.out => Disjoint a b, x ≤ a
+grind_pattern Disjoint.out => Disjoint a b, x ≤ b
+
```
Comment (chrisflav) [inline Mathlib/Order/Disjoint.lean]:
```suggestion
```
Given that `Disjoint.eq_bot_of_le` has a `grind_pattern`, I think these are redundant. At least
```
example (h : Disjoint a b) (x : α) : x ≤ a → x ≤ b → x = ⊥ := by
  grind
```
works without the annotations on `Disjoint.out`. If these are removed, the test goes through again without the `instances` bump.

**Comment by ghost** [comment]
!bench

File: Mathlib/Order/Disjoint.lean (hunk 9 above)
Comment (kim-em) [reply Mathlib/Order/Disjoint.lean]: Agreed.

File: Mathlib/Order/Disjoint.lean (hunk 10 above)
Comment (kim-em) [reply Mathlib/Order/Disjoint.lean]: Thanks, this looks correct.

**Comment by chrisflav** [comment]
Please ping me again when the fix landed and this PR is updated.

**Comment by leanprover-radar** [comment]
Benchmarking 6820f8d8efe4cff22d6ffe2a24cc3b68ff8db995 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/6820f8d8efe4cff22d6ffe2a24cc3b68ff8db995)) against 7ce54af077b98a59268a11f7972c58663ec6255c ([status](https://radar.lean-lang.org/repos/mathlib4/commits/7ce54af077b98a59268a11f7972c58663ec6255c)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Comment by kim-em** [comment]
!bench

**Comment by leanprover-radar** [comment]
Benchmarking 5503d48427702353de327c3bf7152873929e7867 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/5503d48427702353de327c3bf7152873929e7867)) against 963c484655c0063dcbb2742dc57972c12bc55e9d ([status](https://radar.lean-lang.org/repos/mathlib4/commits/963c484655c0063dcbb2742dc57972c12bc55e9d)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Review by chrisflav — APPROVED** [review]
The benchmark now looks good enough to me, so LGTM!

maintainer merge
